US05594023
A) tert-Butyl 4-[[3-amino-3-(2-chlorophenyl)-5-ethoxy-2,3-dihydro-2-oxoindol-1-yl]methyl]benzoate
This compound is prepared according to the procedure described in EXAMPLE 93 from 1 g of 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one and 0.984 g of tert-butyl 4-bromomethylbenzoate. Chromatography on silica using DCM and then a DCM/AcOEt mixture (70/30; v/v) as the eluent gives 1.053 g of the expected product.

reactant | 3-amino-3-(2-chlorophenyl)-5-ethoxy-1,3-dihydroindol-2-one | 1 g | NC1(C(NC2=CC=C(C=C12)OCC)=O)C1=C(C=CC=C1)Cl | C16H15ClN2O2
reactant | tert-butyl 4-bromomethylbenzoate | 0.984 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | hexane AcOEt | CCCCCC.CCOC(=O)C
product | tert-Butyl 4-[[3-amino-3-(2-chlorophenyl)-5-ethoxy-2,3-dihydro-2-oxoindol-1-yl]methyl]benzoate | 1.053 g | NC1(C(N(C2=CC=C(C=C12)OCC)CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)C1=C(C=CC=C1)Cl | C28H29ClN2O4
